US07385061B2
4-[1-(4-Fluorophenoxymethyl)-1H-benzimidazol-2-yl]-furazan-3-ylamine
To a solution of 4-(1H-benzimidazol-2-yl)-furazan-3-ylamine (0.10 g, 0.497 mmol) is added potassium carbonate (0.172 g, 1.24 mmol) followed by 4-fluorophenol (0.0557 g, 0.497 mmol) and diiodomethane (0.133 g, 0.497 mmol). The mixture is stirred over night. Evaporation of the solvent under reduced pressure and partitioning of the resulting residue between water and ethyl acetate followed by drying of the organic solution over sodium sulphate and chromatography of the residue gives the title compound as a colorless solid, m.p. 155-158° C.

reactant | 4-(1H-benzimidazol-2-yl)-furazan-3-ylamine | 0.497 mmol, 0.10 g | N1C(=NC2=C1C=CC=C2)C=2C(=NON2)N | C9H7N5O
reactant | potassium carbonate | 1.24 mmol, 0.172 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorophenol | 0.497 mmol, 0.0557 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | diiodomethane | 0.497 mmol, 0.133 g | ICI | CH2I2
product | 4-[1-(4-Fluorophenoxymethyl)-1H-benzimidazol-2-yl]-furazan-3-ylamine | FC1=CC=C(OCN2C(=NC3=C2C=CC=C3)C=3C(=NON3)N)C=C1 | C16H12FN5O2
